US05037987
(+)-1,4-Dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid ethyl ester
1.44 g (+)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid benzyl ester is introduced into a solution of 100 mg sodium in 90 mL anhydrous ethanol and boiled under reflux for 20 hours. The reaction mixture is evaporated, the residue is taken up in 50 mL dichloromethane and extracted three times with 20 mL amounts of water. The organic phase is dried over anhydrous sodium sulfate and thereafter evaporated to dryness. The residue is recrystallized from 20 mL n-hexane. The filter cake is dried to constant weight at 30° C. in a vacuum drying cabinet. Yield: 850 mg (67.38% of theory); mp 130° C.; [α]D =+110° C. (c=0.5/dichloromethane).

reactant | (+)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid benzyl ester | 1.44 g | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C27H25F3N2O3
reactant | sodium | 100 mg | [Na] | Na
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | (+)-1,4-Dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C22H23F3N2O3
